US06414142B1
Preparation of 2-Ethyl Hexanoate Solution (“Solution 2”)
A 2N solution (49 ml) of potassium 2-ethyl hexanoate/isopropanol is diluted with isopropanol (100 ml) then mixed thoroughly and transferred into a reservoir (“Solution 2”).

reactant | potassium 2-ethyl hexanoate isopropanol | C(CCCCC)(=O)OCC.[K].C(C)(C)O
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 2-Ethyl Hexanoate | C(CCCCC)(=O)OCC | C8H16O2
